US06020346
[2(CycloPropylmethoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S, 3S]-2-phenylpiperidin-3-yl)amine dihydrochloride
A solution of 3-{tert-butoxycarbonyl-[2-(cyclopropylmethoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}[2S,3S]-2-phenylpiperidine-1-carboxylic acid tertbutyl ester (101 mg, 0.15 mmole) in 4M-hydrogen chloride in dioxan (5 ml) was kept at 44° for 3.25 h and then evaporated. The residue was triturated with ethanol to give the title compound as a white solid (66 mg), mass spectrum (thermospray +ve) m/e 473 (MH+). RF 0.5 (100: 8:1 dichloromethane: ethanol: ammonia).

reactant | 3-{tert-butoxycarbonyl-[2-(cyclopropylmethoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-amino}[2S,3S]-2-phenylpiperidine-1-carboxylic acid tertbutyl ester | 0.15 mmole, 101 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(CC1=C(C=CC(=C1)N1N=NN=C1C(F)(F)F)OCC1CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C34H43F3N6O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | [2(CycloPropylmethoxy)-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S, 3S]-2-phenylpiperidin-3-yl)amine dihydrochloride | 66 mg | Cl.Cl.C1(CC1)COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | InChI=1S/C24H27F3N6O.2ClH/c25-24(26,27)23-30-31-32-33(23)19-10-11-21(34-15-16-8-9-16)18(13-19)14-29-20-7-4-12-28-22(20)17-5-2-1-3-6-17;;/h1-3,5-6,10-11,13,16,20,22,28-29H,4,7-9,12,14-15H2;2*1H/t20-,22-;;/m0../s1
